US08084484B2
b) N-[4-(Cyano-methyl-methyl)-phenyl]-acetamide
A solution of 2-(4-Amino-phenyl)-propionitrile (10.2 g, 69.8 mmol) in pyridine (40 mL) was added Ac2O (7.49 g, 73.4 mmol) at room temperature. The reaction mixture was refluxed for 1 hrs then cooled to room temperature, and concentrated in vacuo.

reactant | 2-(4-Amino-phenyl)-propionitrile | 69.8 mmol, 10.2 g | NC1=CC=C(C=C1)C(C#N)C | C9H10N2
reactant | Ac2O | 73.4 mmol, 7.49 g | CC(=O)OC(=O)C | C4H6O3
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | N-[4-(Cyano-methyl-methyl)-phenyl]-acetamide | C(#N)C(C1=CC=C(C=C1)NC(C)=O)C | C11H12N2O
